US08252935B2
b) 2-{5-[1-(Isoquinoline-5-sulfonyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid
To a solution of compound 41a, 2-{5-[1-(Isoquinoline-5-sulfonyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid ethyl ester (59.0 mg, 0.092 mmol) in EtOH (4.6 ml) was added 2M KOH (0.46 ml, 0.92 mmol). The reaction was heated to 78° C. for 2 hours, cooled to room temperature, and concentrated in vacuo. Purification via Gilson HPLC, gave the product (35.7 mg, 63% ) 1H NMR (300 MHz, MeOD) δ ppm 0.79-0.86 (m, 6 H) 1.33-1.46 (m, J=13.21, 6.78, 6.65, 6.65, 6.65 Hz, 1 H) 1.49-1.64 (m, 3 H) 1.76-1.92 (m, 3 H) 2.64-2.72 (m, 1 H) 2.74-2.81 (m, 2 H) 3.62 (t, J=7.91 Hz, 1 H) 3.86 (d, J=10.55 Hz, 2 H) 7.13 (s, 1 H) 7.31 (s, 1 H) 7.40 (s, 1 H) 7.61-7.69 (m, 4 H) 8.00 (t, J=7.72 Hz, 1 H) 8.57-8.66 (m, 3 H) 8.99 (d, J=5.65 Hz, 1 H) 9.73 (s, 1 H) Calcd for C33H33F3N204S (M+H) 610.69, Found 611.2.

reactant | 2-{5-[1-(Isoquinoline-5-sulfonyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid ethyl ester | 0.092 mmol, 59.0 mg | C(C)OC(C(CC(C)C)C=1C=C(C=C(C1)C1CN(CCC1)S(=O)(=O)C=1C=2C=CN=CC2C=CC1)C1=CC=C(C=C1)C(F)(F)F)=O | C35H37F3N2O4S
reactant | KOH | 0.92 mmol, 2M, 0.46 ml | [OH-].[K+]
solvent | EtOH | 4.6 ml | CCO | C2H6O
product | 2-{5-[1-(Isoquinoline-5-sulfonyl)-piperidin-3-yl]-4′-trifluoromethyl-biphenyl-3-yl}-4-methyl-pentanoic acid | 35.7 mg, 63% | C1=NC=CC=2C(=CC=CC12)S(=O)(=O)N1CC(CCC1)C=1C=C(C=C(C1)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)O)CC(C)C | C33H33F3N2O4S
